US04780477
By using 5-chloro-1-(2-diisopropylaminoethyl)isatin and semicarbazide hydrochloride, a method analogous to that described in Example 4 was carried out to obtain (E)-5-chloro-1-(2-diisopropylaminoethyl)isatin 3-semicarbazone having a melting point of 154°-155° C. (yield: 49.4%, recrystallizing solvent: chloroform-hexane).

reactant | 5-chloro-1-(2-diisopropylaminoethyl)isatin | ClC=1C=C2C(C(N(C2=CC1)CCN(C(C)C)C(C)C)=O)=O | C16H21ClN2O2
reactant | semicarbazide hydrochloride | Cl.NNC(=O)N
product | (E)-5-chloro-1-(2-diisopropylaminoethyl)isatin 3-semicarbazone | yield: 49.4% | ClC=1C=C2\C(\C(N(C2=CC1)CCN(C(C)C)C(C)C)=O)=N/NC(=O)N | C17H24ClN5O2
